US07919489B2
1-Methyl-4-[({[4-(trifluoromethoxy)phenyl]amino}carbonyl)amino]-1H-imidazole-2-carboxylic acid
835 mg (2.13 mmol) of ethyl 1-methyl-4-[({[4-(trifluoromethoxy)phenyl]amino}carbonyl)amino]-1H-imidazole-2-carboxylate are suspended in 5 ml of ethanol and 12 ml of tetrahydrofuran. With ice cooling, 2 ml (25 mmol) of a 50% aqueous sodium hydroxide solution are added. The reaction mixture is stirred at room temperature overnight and then, with ice cooling, acidified with 1N hydrochloric acid. The solution is extracted with dichloromethane. The organic phase is concentrated in vacuo. The residue is purified by preparative HPLC.

reactant | ethyl 1-methyl-4-[({[4-(trifluoromethoxy)phenyl]amino}carbonyl)amino]-1H-imidazole-2-carboxylate | 2.13 mmol, 835 mg | CN1C(=NC(=C1)NC(=O)NC1=CC=C(C=C1)OC(F)(F)F)C(=O)OCC | C15H15F3N4O4
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 12 ml | O1CCCC1 | C4H8O
product | 1-Methyl-4-[({[4-(trifluoromethoxy)phenyl]amino}carbonyl)amino]-1H-imidazole-2-carboxylic acid | CN1C(=NC(=C1)NC(=O)NC1=CC=C(C=C1)OC(F)(F)F)C(=O)O | C13H11F3N4O4
